US09102662B2
(3-Amino-1-trityl-1H-indazol-5-yl)-(3,5-difluoro-phenyl)-methanone [(VI), R1=R2=R3=H, R=3,5-difluorophenyl, PG=triphenylmethyl]
N-[5-(3,5-Difluoro-benzoyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide (6.12 g, 10 mmol) was heated at 100° C. in a mixture isopropanol/tetrahydrofuran 8:2 (100 mL) and triethylamine (12.2 mL) for 48 hours. The volatiles were partially evaporated and the resulting mixture cooled and filtered. The solid was washed with diethyl ether. After drying under vacuum at 70° C. the title compound was obtained as a white solid (5.1 g, 99% yield).

reactant | N-[5-(3,5-Difluoro-benzoyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | 10 mmol, 6.12 g | FC=1C=C(C(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C(F)(F)F)=O)C=C(C1)F | C35H22F5N3O2
reactant | isopropanol tetrahydrofuran | 100 mL | C(C)(C)O.O1CCCC1
solvent | triethylamine | 12.2 mL | C(C)N(CC)CC | C6H15N
product | (3-Amino-1-trityl-1H-indazol-5-yl)-(3,5-difluoro-phenyl)-methanone | 5.1 g, 99% yield | NC1=NN(C2=CC=C(C=C12)C(=O)C1=CC(=CC(=C1)F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H23F2N3O
